US08563723B2
0.65 g 1-Acetyl-5-bromo-2,3-dihydro-1H-indole-6-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide was dissolved in 20 mL MeOH and 20.7 mL of 1M HCl in MeOH was added. The mixture was stirred overnight under reflux. After cooling to room temperature, the mixture was basified with a 5% NaHCO3 solution and extracted twice with DCM. The combined organic layers were dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (DCM/EA 9:1→8:2) to give 0.35 g (64%) of 5-Bromo-2,3-dihydro-1H-indole-6-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 0.96 (t, J=7.37 Hz, 3H), 1.17 (t, J=7.22 Hz, 3H), 1.45-1.68 (m, 2H), 3.00-3.15 (m, 3H), 3.48-3.57 (m, 2H), 3.62 (t, J=8.43 Hz, 2H), 3.71 (dd, J=11.14, 7.52 Hz, 1H), 3.91 (br.s., 1H), 4.08-4.17 (m, 1H), 6.76 (br.s., 1H), 6.90 (d, J=1.50 Hz, 1H), 7.34 (s, 1H), 7.46 (s, 1H).

reactant | 1-Acetyl-5-bromo-2,3-dihydro-1H-indole-6-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide | 0.65 g | C(C)NC(=NS(=O)(=O)C1=C(C=C2CCN(C2=C1)C(C)=O)Br)N1N=CC(C1)CC | C18H24BrN5O3S
reactant | HCl | 1M, 20.7 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 5-Bromo-2,3-dihydro-1H-indole-6-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide | 0.35 g, 64% | C(C)NC(=NS(=O)(=O)C1=C(C=C2CCNC2=C1)Br)N1N=CC(C1)CC | C16H22BrN5O2S
